US05405861
In ethanol (510 ml) was dissolved methyl (2R)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionate (42.7 g), to which was added, under ice-cooling, a 2N solution of sodium hydroxide (170 ml), followed by stirring for one hour at room temperature. The reaction mixture was cooled with ice, to which was added a 26% aqueous solution of acetic acid (120 ml), followed by extraction with dichloromethane (200 ml) three times. Dichloromethane layers were combined, washed with a saturated aqueous sodium chloride solution (100 ml) twice, and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure to leave (2R)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionic acid (32 g) as a colorless waxy product.

reactant | methyl (2R)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionate | 42.7 g | O1C(CCCC1)O[C@@H](C(=O)OC)C | C9H16O4
reactant | sodium hydroxide | 170 ml | [OH-].[Na+]
reactant | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 510 ml | C(C)O | C2H6O
product | (2R)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionic acid | 32 g | O1C(CCCC1)O[C@@H](C(=O)O)C | C8H14O4
